US07897621B2
a) 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester
5-Bromo-1,6-dihydro-6-oxo-2-(trifluoromethyl)-3-pyridinecarboxylic acid ethyl ester (CAS Registry No. 862111-61-3) (5.0 g, 16 mmol) was dissolved in tetrahydrofuran (80 mL). To the solution were added trifluoroethanol (1.37 mL, 19 mmol), triphenylphosphine (5.0 g, 19 mmol) and diethyl azodicarboxylate (3.7 mL, 19 mmol) at 0° C. The mixture was stirred for 30 min at 0° C. and for 6 h at room temperature. The solvent was removed in vacuo and the residue dissolved in dichloromethane and washed with water. Organic phases were pooled, dried with MgSO4 and concentrated in vacuo. The residue was purified by chromatography on silica gel with dichloromethane:heptane 1:2 to yield the product as white solid, MS (ISP) 397 (M+H)+.

reactant | 5-Bromo-1,6-dihydro-6-oxo-2-(trifluoromethyl)-3-pyridinecarboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC(C(=C1)Br)=O)C(F)(F)F | C9H7BrF3NO3
reactant | trifluoroethanol | 19 mmol, 1.37 mL | C(C(F)(F)F)O | C2H3F3O
reactant | triphenylphosphine | 19 mmol, 5.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 19 mmol, 3.7 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 5-Bromo-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C(=C1)Br)OCC(F)(F)F)C(F)(F)F)=O | C11H8BrF6NO3
